US06352993B1
5,6-dimethyl-2-(cyclohexylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After cyclohexylamine(0.31 ml, 2.7 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide, 340 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | cyclohexylamine | 2.7 mmol, 0.31 ml | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(cyclohexylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 340 mg, Yield: 70.0% | Cl.CC=1C(=NC(=NC1C)NC1CCCCC1)N1CC2=CC=CC=C2CC1 | InChI=1S/C21H28N4.ClH/c1-15-16(2)22-21(23-19-10-4-3-5-11-19)24-20(15)25-13-12-17-8-6-7-9-18(17)14-25;/h6-9,19H,3-5,10-14H2,1-2H3,(H,22,23,24);1H
